US05166198
d) 4-Chloro-6-[2-(acetoxymethyl)-4-(diethoxyphosphoryl)butoxyamino] 2,5-diformamidopyrimidine
4,6-Dichloro-2,5-diformamidopyrimidine (0.390 g, 1.66 mmol), diethyl 3-(acetoxymethyl)-4-(aminooxy)-butylphosphonate (0.380 g, 1.275 mmol) and N,N-diisopropylethylamine (0.58 ml, 3.22 mmol) were dissolved in diglyme (15 ml) and the resulting mixture was stirred at 100° C. for 3 hours. The reaction mixture was then allowed to cool, N,N-diisopropylethylamine hydrochloride was filtered off and the filtrate was evaporated to dryness. The residue was chromatographed on silica gel (eluting with chloroform:ethanol 97:3) to give the title compound (0.480 g, 76%). 1H NMR: δH [(CD3)2SO] 1.22 (6H, t, J=7Hz (OCH2CH3), 1.75 (4H, m, CH2CH2P), 2.01 (4H, m, COCH3, CHCH2) 4.0 (8H, m, CH2OAc, NOCH2, (OCH2)2) 8.15 (1H, s, 5-NHCHO), 9.25 (1H, s, 2-NHCHO), 9.40 (1H, br.s, D2O exchangeable, NHOCH2) 10.80 (2H, br.s. D2O exchangeable, 2x NHCHO). Found: C,41.97, H,5.80; N,13.17%. C17H27N5O8PCl requires: C,41.17; H,5.49; N,14.12%.

reactant | 4,6-Dichloro-2,5-diformamidopyrimidine | 1.66 mmol, 0.390 g | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | diethyl 3-(acetoxymethyl)-4-(aminooxy)-butylphosphonate | 1.275 mmol, 0.380 g | C(C)(=O)OCC(CCP(OCC)(OCC)=O)CON | C11H24NO6P
reactant | N,N-diisopropylethylamine | 3.22 mmol, 0.58 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | diglyme | 15 ml | COCCOCCOC | C6H14O3
product | 4-Chloro-6-[2-(acetoxymethyl)-4-(diethoxyphosphoryl)butoxyamino] 2,5-diformamidopyrimidine | 0.480 g, 76% | ClC1=NC(=NC(=C1NC=O)NOCC(CCP(=O)(OCC)OCC)COC(C)=O)NC=O | C17H27ClN5O8P
